US05411980
Step B: 5-n-Butyl-2-[α-(carbomethoxy)benzyl]-2,4-dihydro-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one
Deprotection of 5-n-butyl-2-[α-(carbomethoxy)benzyl]-2,4-dihydro-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one in 67% aqueous acetic acid was accomplished by the procedure of Example 3, Step B, except the mixture was heated overnight at 65° C. After work-up, the residue was flash chromatographed over silica gel (30 mL for 0.14 mmole, elution with 4-10% MeOH/CH2Cl2) to give the title compound in 96% yield as an off-white foam, homogeneous by TLC in 9:1 CH2Cl2 /MeOH, mass spectrum (FAB) m/e 524 (M+1)+.

reactant | 5-n-butyl-2-[α-(carbomethoxy)benzyl]-2,4-dihydro-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)C(C1=CC=CC=C1)C(=O)OC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H43N7O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-n-Butyl-2-[α-(carbomethoxy)benzyl]-2,4-dihydro-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | 96% yield | C(CCC)C=1N(C(N(N1)C(C1=CC=CC=C1)C(=O)OC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C29H29N7O3
